US07538123B2
(1) 7-[2-(1,4-Dioxa-8-azaspiro[4.5]decan-8-yl)ethyl]-6-methoxyquinoline
1.45 g of (6-methoxyquinolin-7-yl)acetaldehyde and 0.63 g of 1,4-dioxa-8-azaspiro[4.5]decane were dissolved in 20 ml of methylene chloride. Thereafter, 0.42 ml of acetic acid and 0.74 g of sodium triacetoxyborohydride were added to the reaction solution, and the obtained mixture was then stirred at room temperature for 3 hours. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by extraction with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol), so as to obtain 445 mg of the subject compound.

reactant | (6-methoxyquinolin-7-yl)acetaldehyde | 1.45 g | COC=1C=C2C=CC=NC2=CC1CC=O | C12H11NO2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.63 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | sodium triacetoxyborohydride | 0.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.42 ml | C(C)(=O)O | C2H4O2
product | 7-[2-(1,4-Dioxa-8-azaspiro[4.5]decan-8-yl)ethyl]-6-methoxyquinoline | 445 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1C=CC=NC1=C2)OC | C19H24N2O3
